Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
rectal pain 
 
Major Surgical or Invasive Procedure:
Incision and Drainage of Perirectal Abscess with placement of 
Mallencot Drain

 
History of Present Illness:
HPI:
This is a case of ___ year old Male patient with no significant
PMH presents to the ED from ___ office for evaluation of anal
pain x 4 days. Patient states that he was seen at 
___ and then ___ 4 days ago for URI. States that he also  
developed pain in anus at that time. Today he came in with
excruciating anal pain associated w subjective non-documented
fever with chills and dizziness. Denies anal intercourse. 
Patient
initially went to ___ in which he had CT scan which showed
perianal/perirectal horseshow abscess with possible fistula. In
the ED at ___, he noted to have high grade temperature up to
103.2 associated with chills and rigor, he become mildly
tachycardic with mild hypotensive. He denies, N/V, dizziness,
lightheadedness or any other complaints. 

 
Past Medical History:
PAST MEDICAL HISTORY:
none 

Previous surgeries/procedures:
none

 
Social History:
___
Family History:
non contributory  
 
Physical Exam:
Vitals:Temp 98.2, 84, 122/77, 18 100% RA
NAD, AOX3
NWOB
Abd soft, NTBD
DRE: s/p I7D of abscess, malecot drain in place

 
Pertinent Results:
___ 06:45AM BLOOD WBC-19.7* RBC-3.95* Hgb-11.2* Hct-34.5* 
MCV-87 MCH-28.4 MCHC-32.5 RDW-12.7 RDWSD-40.6 Plt ___
___ 09:50PM BLOOD WBC-18.0* RBC-4.26* Hgb-12.3* Hct-37.4* 
MCV-88 MCH-28.9 MCHC-32.9 RDW-12.8 RDWSD-41.0 Plt ___
___ 06:45AM BLOOD Neuts-83* Bands-0 Lymphs-9* Monos-7 Eos-0 
Baso-1 ___ Myelos-0 AbsNeut-16.35* AbsLymp-1.77 
AbsMono-1.38* AbsEos-0.00* AbsBaso-0.20*
___ 09:50PM BLOOD Neuts-75.4* Lymphs-12.9* Monos-10.5 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-13.55* AbsLymp-2.32 
AbsMono-1.88* AbsEos-0.01* AbsBaso-0.07
___ 06:45AM BLOOD Plt Smr-NORMAL Plt ___
___ 09:50PM BLOOD Plt ___
___ 09:50PM BLOOD ___ PTT-27.5 ___
___ 06:45AM BLOOD Glucose-106* UreaN-6 Creat-0.8 Na-137 
K-3.6 Cl-100 HCO3-30 AnGap-11
___ 09:50PM BLOOD Glucose-126* UreaN-7 Creat-0.8 Na-141 
K-4.1 Cl-104 HCO3-28 AnGap-13
___ 09:50PM BLOOD ALT-12 AST-17 AlkPhos-72 TotBili-0.9
___ 06:45AM BLOOD Calcium-8.1* Phos-3.5 Mg-1.9
___ 09:50PM BLOOD Albumin-3.6
___ 10:02PM BLOOD Lactate-1.8
 
Brief Hospital Course:
Mr. ___ presented to the ED with rectal pain. He was found 
to have a large perirectal abscess and was taken to the 
operating room for exam under anesthesia and I&D of the abscess. 
He tolerated the procedure well. A malecot drain was placed for 
which he underwent drain teaching for flushes to be done at 
home. He was initially on cipro/flagyl but was switched to 
Augmentin on day of discharge, which he will continue for 5 
days.
 
Medications on Admission:
none 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg 2 
tablet(s) by mouth q 6 hours Disp #*30 Tablet Refills:*0 
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate [Augmentin] 875 mg-125 mg 1 
tablet(s) by mouth q 12 hours Disp #*10 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
Take while using oxycodone to prevent constipation. 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 capsule(s) by mouth q 4 hours Disp #*30 
Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Perirectal Abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You were admitted to the hospital with a perirectal abscess. You 
were taken to the operating room for incision and drainage of 
this abscess and placement of drain in the area. The abscess is 
quite large and will require irrigation of this drain to heal. 
The drain will stay inplace until your follow-up appointment. 
Please irrigate this drain with 30cc of sterile normal saline as 
instructed by the nursing staff. Please use a mirror to assess 
this area for worsened signs of infection: increased redness, 
increased drainage of green/white/thick foul smelling drainage, 
increased swelling of the tissue around the abscess. Please call 
if the wound is putting out bright red blood. A small amount of 
pussy/light pink drainage is normal, we want the area to drain. 
You should where a dry gauze pad in your underwear to catch the 
drainage and you should change this at least daily and ideally 
after each drain flush. Please take the antibiotic Augmentin for 
7 days, please take this entire prescription. 

Please call our clinic with any of these concerning signs: 
increased abdominal pan, abdominal distension, fever> 100.1, 
feeling weak, increasing pain at the wound. Please call with any 
questions or concerns. 

You will be prescribed narcotic pain medication Oxycodone. This 
medication should be taken when you have pain and as needed as 
written on the bottle. This is not a standing medication. You 
should continue to take Tylenol for pain around the clock and 
you can also take Advil. Please do not take more than 3000mg of 
Tylenol in 24 hours. Do not drink alcohol while taking narcotic 
pain medication or Tylenol. Please do not drive a car while 
taking narcotic pain medication.
  
No heavy lifting greater than 6 lbs for until your first 
post-operative visit after surgery. Please no strenuous activity 
until this time unless instructed otherwise by Dr. ___ 
Dr. ___.  
 
Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities.
 
Followup Instructions:
___